Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[O:10][H:11]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-1.40696275512
[C:1](#[C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[H:3]>>[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],2.0619716833900004
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.99698881428
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.38135090617
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5][H:6],6.234247773790001
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.54271356576
[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],-1.83624685583
[H:1][O:2][c:3]1[c:4][c:5]([H:6])[c:7]([H:8])[o:9]1>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[O:9],0.0996681876313
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.87714054874
[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3]=[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],2.7577299128099995
[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.74446753004
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.80602108336
[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],4.00131367847
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],-4.851693761080001
[C:1]#[C:2][C:3]([H:4])[O:5][O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.58628312604
[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3],3.41494786847
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11],4.64578775674
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:5],5.25429934471
[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10],-5.948173091669999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],1.7565169261099998
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.27012871552
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.58096135058
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.7446842095599997
[H:11].[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.13642664193
[C:2]([O:3][H:4])=[C:5]([H:6])[H:7].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],-6.33541893732
[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-1.3613401766
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12],5.151308161559999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.850139742300001
[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.08231970754
[H:1][C:2]([H:3])[O:5][O:4]>>[H:1][C:2]1([H:3])[O:4][O:5]1,-1.12818658
[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-4.14273792428
